US07544672B2
Step 1: tert-Butyl-pent-4-ynyl-amine
A solution of 5-iodo-pent-1-yne (1.0 g, 5.2 mmol) in tert-BuNH2 (2.0 g. 27 mmol) was heated to reflux for 4 h, evaporated, diluted with Et2O, filtered, and concentrated to afford the title compound. 1H NMR (CDCl3) δ 2.67 (t, 2H), 2.27 (td, 2H), 1.96 (t, 1H), 1.70 (quint., 2H), 1.11 (s, 9H).

reactant | 5-iodo-pent-1-yne | 5.2 mmol, 1.0 g | ICCCC#C | C5H7I
reactant | tert-BuNH2 | 27 mmol, 2.0 g | C(C)(C)(C)N | C4H11N
product | tert-Butyl-pent-4-ynyl-amine | C(C)(C)(C)NCCCC#C | C9H17N
